US09388189B2
(S)—N-(3-((4-((1-(5-Methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)thio)phenyl)methanesulfonamide
(S)-2-(1-((5-((3-Aminophenyl)thio)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (100 mg, 0.13 mmol) was treated with methanesulfonyl chloride (10 μl, 0.14 mmol) according to the method described in Preparation 15b. The residue was purified by reverse phase using SP1® Purification System to give 20 mg (23% yield) of the title compound. Purity 98%.

reactant | (S)-2-(1-((5-((3-Aminophenyl)thio)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.13 mmol, 100 mg | NC=1C=C(C=CC1)SC1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C | C33H38N8O2SSi
reactant | methanesulfonyl chloride | 0.14 mmol, 10 μl | CS(=O)(=O)Cl | CH3ClO2S
product | (S)—N-(3-((4-((1-(5-Methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)thio)phenyl)methanesulfonamide | 20 mg, 23% yield | CC=1C=CN2N=C(N(C(C21)=O)C2=CC=CC=C2)[C@H](C)NC=2C1=C(N=CN2)N(C=C1SC=1C=C(C=CC1)NS(=O)(=O)C)COCC[Si](C)(C)C | C34H40N8O4S2Si
